US09351965B2
ethyl 3-bromo-1H-indazole-5-carboxylate
ethyl 1H-indazole-5-carboxylate hydrochloride (146 g, 0.645 mol) was dissolved in ethanol (4 L, anhydrous). Bromine (113.3 g, 0.709 mol) in 200 ethanol was added at room temperature. The reaction mixture was allowed to stir for 17 hours at room temperature. TLC (30% ethyl acetate/hexane) indicated that starting material was left. Bromine (40 g in 100 mL of ethanol) was added at room temperature. After 1 hour, TLC indicated no starting material was left. Ethanol was evaporated (2 L removed) and the mixture was poured into ice-water (8 L). The purple solid was stirred and 750 mL of saturated Na2S2O3 and NaOH solution was added to adjust the pH to 10-11. Total volume was 10 L. The mixture was stirred for 30 minutes and the solid were filtered and washed with 1.5 L of water and dried in a vacuum oven to obtain 170 gram of product as yellow solid.

reactant | ethyl 1H-indazole-5-carboxylate hydrochloride | 0.645 mol, 146 g | Cl.N1N=CC2=CC(=CC=C12)C(=O)OCC
reactant | Bromine | 0.709 mol, 113.3 g | BrBr | Br2
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
reactant | Bromine | 100 mL, 40 g | BrBr | Br2
solvent | ethanol | 4 L | C(C)O | C2H6O
product | ethyl 3-bromo-1H-indazole-5-carboxylate | 170 gram | BrC1=NNC2=CC=C(C=C12)C(=O)OCC | C10H9BrN2O2
